US07786155B2
Synthesis in analogy to Example 8 starting from 3-[2-(4-amino-phenyl)-2-oxo-ethyl]-2-methyl-5,5-diphenyl-3,5-dihydro-imidazol-4-one and o-tolyl-acetyl chloride to yield N-{4-[2-(2-methyl-5-oxo-4,4-diphenyl-4,5-dihydro-imidazol-1-yl)-acetyl]-phenyl}-2-o-tolyl-acetamide. LC/MS at 254 nm; [M+H] 516; Rt 3.526 min.

reactant | 3-[2-(4-amino-phenyl)-2-oxo-ethyl]-2-methyl-5,5-diphenyl-3,5-dihydro-imidazol-4-one | NC1=CC=C(C=C1)C(CN1C(=NC(C1=O)(C1=CC=CC=C1)C1=CC=CC=C1)C)=O | C24H21N3O2
reactant | o-tolyl-acetyl chloride | C1(=C(C=CC=C1)CC(=O)Cl)C | C9H9ClO
product | N-{4-[2-(2-methyl-5-oxo-4,4-diphenyl-4,5-dihydro-imidazol-1-yl)-acetyl]-phenyl}-2-o-tolyl-acetamide | CC=1N(C(C(N1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)CC(=O)C1=CC=C(C=C1)NC(CC1=C(C=CC=C1)C)=O | C33H29N3O3
